Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Altered mental status
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ with a history of dementia, alcohol
abuse, HTN, renal failure, and frequent syncopal events who is
brought in by EMS from ___ where he lives because of
an episode of unresponsiveness.  
History is obtained from EMS and records from ___ 
that
came with the patient.  None was able to contact the ___ 
house, but from records,  the patient was found around 2:30pm 
unresponsive sitting in a chair.  There was a question of 
whether he had a right facial droop. When EMS arrived at the 
scene the patient was alert, conversational, moving all 4 
extremities and there was no clear facial droop.  There was no 
report of anyone witnessing shaking movements or eye deviation 
to suggest seizure.  Also no urinary incontinence or tongue 
___.  Per reports from ___, it is not uncommon 
for this patient to have "syncopal events."

Patient denies headache, lightheadedness. Denies difficulty 
producing or comprehending speech and states speech is normal.  
Denies loss of vision, blurred vision, diplopia, vertigo,
tinnitus, hearing difficulty, or dysphagia. Denies focal muscle
weakness, numbness, parasthesia. Denies loss of sensation. 
Denies
bowel or bladder incontinence or retention. Denies difficulty
with gait.

On general review of systems, the patient denies fevers, rigors,
night sweats, or noticeable weight loss. Denies chest pain,
palpitations, dyspnea, or cough. Denies nausea, vomiting,
diarrhea, constipation, or abdominal pain.  No recent change in
bowel or bladder habits.  Denies dysuria or hematuria. Denies
myalgias, arthralgias, or rash.

 
Past Medical History:
- Dementia
- Delerium
- HTN
- ETOH Abuse
- chronic kidney disease
- frequent syncopal events

 
Social History:
___
Family History:
None
 
Physical Exam:
Physical Exam on Admission:
Vitals:  98.0 64 139/69 14 98% RA 
General:  NAD A+O to name. Does not know where he is, his age or 
the date.  Speech is dysarthric. 
HEENT: NCAT, edentulous throughout save a few teeth on lower
gums, no oropharyngeal lesions, neck supple. mucous membranes 
dry
___: RRR, no murmors noted
Pulmonary: CTAB, no crackles or wheezes
Extremities: Warm, no edema
Skin: with multiple nodular, non erythematous lesions on face 
and
neck
Neuro: No facial movement asymmetry. Tongue midline. No 
nystagmus. No pronator drift. Strength grossly intact fo 
proximal and distal muscle groups. No deficits to light touch. 
Intention tremor bilaterally, but no clumsy hand movements. 

Discharge physical:

General: A+O x1. Visibly confused despite re-orientatio 
General:  NAD A+O to name. Does not know where he is, his age or 
the date.  Speech is dysarthric. 
HEENT: NCAT, edentulous throughout save a few teeth on lower
gums, no oropharyngeal lesions, neck supple. mucous membranes 
dry
___: RRR, no murmors noted
Pulmonary: CTAB, no crackles or wheezes
Extremities: Warm, no edema
Skin: with multiple nodular, non erythematous lesions on face 
and
neck
Neuro: No facial movement asymmetry. Tongue midline. No 
nystagmus. No pronator drift. Strength grossly intact fo 
proximal and distal muscle groups. No deficits to light touch. 
Intention tremor bilaterally, but no clumsy hand movements. 

 
Pertinent Results:
Labs on Admission:

___ 03:16PM BLOOD WBC-5.1 RBC-3.91* Hgb-12.2* Hct-37.6* 
MCV-96 MCH-31.3 MCHC-32.6 RDW-13.4 Plt ___
___ 03:16PM BLOOD ___ PTT-31.2 ___
___ 03:16PM BLOOD Glucose-94 UreaN-23* Creat-1.6* Na-141 
K-4.1 Cl-108 HCO3-24 AnGap-13
___ 03:18PM BLOOD Creat-1.7*
___ 03:16PM BLOOD ALT-10 AST-19 AlkPhos-60 TotBili-0.2
___ 03:16PM BLOOD cTropnT-<0.01
___ 03:16PM BLOOD Albumin-4.2 Calcium-9.3 Phos-3.5 Mg-2.1
___ 03:16PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 03:16PM BLOOD Glucose-92 Na-144 K-4.1 Cl-107 calHCO3-26
___ 04:20PM URINE Color-Yellow Appear-Clear Sp ___
___ 04:20PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH:
-5.5 Leuks-NEG
___ 04:20PM URINE RBC-2 WBC-1 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 04:20PM URINE CastHy-13*
___ 04:20PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG

Further Studies

CT Scan Head (___): No intracranial hemorrhage or acute 
territorial infarction.  Multiple nonspecific dermal soft tissue 
lesions, including over the right zygoma

Chest Xray (___):  The heart is mildly enlarged. Upper 
mediastinal contours are unremarkable. The thoracic aorta is 
densely calcified throughout. Lung volumes are low and there is 
bibasilar atelectasis. No focal consolidation, pleural effusion, 
or pneumothorax. 
Impression: Cardiomegaly. No focal consolidation. 

Discharge labs

___ 06:45AM BLOOD WBC-4.2 RBC-3.86* Hgb-12.1* Hct-37.3* 
MCV-97 MCH-31.4 MCHC-32.5 RDW-13.2 Plt ___
___ 06:45AM BLOOD Glucose-91 UreaN-19 Creat-1.4* Na-138 
K-4.0 Cl-105 HCO3-27 AnGap-___ year old male with history of dementia, alcohol abuse, HTN, 
chronic kidney disease and frequent syncopal events was brought 
in by EMS from ___ for an episode of 
unresponsiveness.  No evidence of shaking movements or eye 
deviation that would suggest seizure.  

Patient was seen in the ED on ___ by Neurology who did not 
think this was TIA/CVA. There were no focal neurological 
deficits present. Ct Scan of head revealed no acute 
abnormalities. This is unlikely to be due to an infectious 
etiology; patient afebrile, no increased WBC count. Urinalysis 
and Chest Xray were clear.  Patient remained on telemetry 
overnight and an EKG revealed sinus bradycardia. There were no 
abnormal findings on telemetry overnight including no 
arrythmias. Orthostatic blood pressures from lying down to 
sitting were found to be normal.  Due to bradycardia, patients 
metoprolol was switched from 50mg bid to 25mg bid.  Patient had 
a Cr of 1.6 upon admission, and had decreased to 1.4 after IV 
fluids. The patient has a history of kidney injury with an 
unclear baseline. Likely a component of orthostatic hypotension 
from dehydration contributing to the inciting event.

Chronic Issues:
#Delirium,Dementia: continued reorientation, trazodone prn 
anxiety
#Gout: Continued allopurinol
#HTN: Continue home meds. Decreased dose of metoprolol due to 
bradycardia 

Transitional Issues
#Code Status: FC, no invasive ventilation (to be clarified)
#Contact: ___ ___, home 
___
# Encourage fluid intake 
# Unclear what baseline Cr and Heart function is. Please follow 
up as an outpatient
# If syncopal issues continue to occur, patient would benefit 
from event monioring/ ___ of Hearts
# Decreased dose of Metoprolol from 50mg to 25mg POqd due to 
bradycardia
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyanocobalamin 1000 mcg IM/SC ONCE A MONTH 
2. Allopurinol ___ mg PO DAILY 
3. Amlodipine 10 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Lactulose 15 mL PO DAILY 
6. Metoprolol Succinate XL 50 mg PO DAILY 
7. Docusate Sodium 100 mg PO BID 
8. HydrALAzine 25 mg PO BID 
9. Vitamin D 400 UNIT PO BID 
10. TraZODone 25 mg PO Q8H:PRN anxiety/agitation 
11. Calcium Carbonate 500 mg PO BID 
12. Senna 17.2 mg PO HS 
13. Loratadine 10 mg PO DAILY:PRN rhinitis 
14. Acetaminophen 500 mg PO Q6H:PRN pain 
15. Flector (diclofenac epolamine) 1.3 % transdermal qd PRN Pain 


 
Discharge Medications:
1. Acetaminophen 500 mg PO Q6H:PRN pain 
2. Allopurinol ___ mg PO DAILY 
3. Amlodipine 10 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Calcium Carbonate 500 mg PO BID 
6. Cyanocobalamin 1000 mcg IM/SC ONCE A MONTH 
7. Docusate Sodium 100 mg PO BID 
8. HydrALAzine 25 mg PO BID 
9. Lactulose 15 mL PO DAILY 
10. Senna 17.2 mg PO HS 
11. TraZODone 25 mg PO Q8H:PRN anxiety/agitation 
12. Vitamin D 400 UNIT PO BID 
13. Flector (diclofenac epolamine) 1.3 % transdermal qd PRN Pain 

14. Loratadine 10 mg PO DAILY:PRN rhinitis 
15. Metoprolol Succinate XL 25 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: Syncope, undiagnosed etiology, with some component 
hypovolemia
Secondary: ___ on chronic kidney disease, Hypertension, dementia 


 
Discharge Condition:
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Level of Consciousness: Alert and interactive.
Mental Status: Confused - sometimes.

 
Discharge Instructions:
Mr. ___,
It was a pleasure taking care of you during your stay at ___. 
You presented to the Emergency Room on ___ following an 
unwitnessed episode of unresponsiveness and questionable facial 
droop.
You were seen in the ED, a CT head came back with no acute 
findings, and you were cleared by neurology that you were not 
having a stroke or TIA.
You were closely monitored overnight, and were discharged back 
to ___ house with no abnormal findings

We wish you the best of luck in the future,
Your team at ___
 
Followup Instructions:
___